US05190959
The procedure of Example 39 (a) was repeated except for using phenyl-2-thienylmethyl chloride and 4-hydroxy-1-[4-(2-nitrophenoxy)-2(Z)-butenyl]piperidine instead of phenyl-2-thienylmethyl chloride and 4-hydroxy-1-[4-(2-nitrophenoxy)-2(E)-butenyl]piperidine to give oily 4-(phenyl-2-thienylmethoxy)-1-[4-(2-nitrophenoxy)-2(Z)-butenyl]piperidine.

reactant | phenyl-2-thienylmethyl chloride | C1(=CC=CC=C1)C(C=1SC=CC1)Cl | C11H9ClS
reactant | 4-hydroxy-1-[4-(2-nitrophenoxy)-2(Z)-butenyl]piperidine | OC1CCN(CC1)C\C=C/COC1=C(C=CC=C1)[N+](=O)[O-] | C15H20N2O4
reactant | 4-hydroxy-1-[4-(2-nitrophenoxy)-2(E)-butenyl]piperidine | OC1CCN(CC1)C\C=C\COC1=C(C=CC=C1)[N+](=O)[O-] | C15H20N2O4
product | 4-(phenyl-2-thienylmethoxy)-1-[4-(2-nitrophenoxy)-2(Z)-butenyl]piperidine | C1(=CC=CC=C1)C(OC1CCN(CC1)C\C=C/COC1=C(C=CC=C1)[N+](=O)[O-])C=1SC=CC1 | C26H28N2O4S
